US05273986
A mixture of 0.836 g of (E)-2-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid, 0.38 g of diethylchlorophosphate, 2.2 g of triethylamine, 1.8 g of dimethylamine hydrochloride and 25 ml of tetrahydrofuran was stored at room temperature for 20 hr. The solvent was removed in vacuo and the residual materials were taken up in 100 ml of methylene chloride and then washed with water (3×30 ml), dried (MgSO4) and the solvent removed in vacuo. The residual materials were crystallized from ethanol to yield (E)-2-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]-N,N-dimethylbenzamide as an off-white colored solid, m.p. 125°-127° C. Anal. Calcd for C26H27N3O2S: C, 70.09; H, 6.11; N, 9.43. Found: C, 69.92; H, 6.25; N, 9.42.

reactant | (E)-2-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid | 0.836 g | C1(CCC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)NC(CC1=C(C(=O)O)C=CC=C1)=O | C24H22N2O3S
reactant | diethylchlorophosphate | 0.38 g | C(C)OP(=O)(OCC)Cl | C4H10ClO3P
reactant | triethylamine | 2.2 g | C(C)N(CC)CC | C6H15N
reactant | dimethylamine hydrochloride | 1.8 g | Cl.CNC
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | (E)-2-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]-N,N-dimethylbenzamide | C1(CCC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)NC(CC1=C(C(=O)N(C)C)C=CC=C1)=O | C26H27N3O2S
